US05324747
A mixture of 8.9 g of 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenylcarbamic acid phenylmethyl ester and 1.5 g of 10% palladium on carbon in 250 ml of THF was stirred in a hydrogen atmosphere at room temperature for 2.5 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was triturated with hexane and filtered to give 6.8 g (97% yield, mp 57°-59°) of 5-[3-amino-5(octadecyloxy)phenoxy]pentanoic acid methyl ester.

reactant | 3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenylcarbamic acid phenylmethyl ester | 8.9 g | C1(=CC=CC=C1)COC(NC1=CC(=CC(=C1)OCCCCC(=O)OC)OCCCCCCCCCCCCCCCCCC)=O | C38H59NO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 5-[3-amino-5(octadecyloxy)phenoxy]pentanoic acid methyl ester | 6.8 g, 97% yield | COC(CCCCOC1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)N)=O | C30H53NO4
